US05175301
1-(4-Chlorobenzyl)amino-1-dimethylamino-2-nitroethylene (Compound 71)
In 100 ml of EtOH was dissolved 2.59 g (0.01 mole) of 1-(4-chlorobenzyl)amino-1-methylthio-2-nitroethylene with heating. Then, with refluxing and stirring, a solution of 2.25 g of 50% aqueous dimethylamine solution in 10 ml of EtOH was added dropwise over a period of 35 minutes. After completion of dropwise addition, the mixture was further stirred and refluxed for 2.5 hours. The solvent was then distilled off and the residue was diluted with ether and triturated, whereupon crystals separated. After addition of EtOH and ether (about 1:5), the crystals were collected by filtration, washed with ether and dried. The procedure gave 1.21 g of the title compound as white crystals.

reactant | 1-(4-chlorobenzyl)amino-1-methylthio-2-nitroethylene | 0.01 mole, 2.59 g | ClC1=CC=C(CNC(=C[N+](=O)[O-])SC)C=C1 | C10H11ClN2O2S
reactant | dimethylamine | 2.25 g | CNC | C2H7N
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 1-(4-Chlorobenzyl)amino-1-dimethylamino-2-nitroethylene | 1.21 g | ClC1=CC=C(CNC(=C[N+](=O)[O-])N(C)C)C=C1 | C11H14ClN3O2
